US06610711B2
2-(4,4-Dimethylcyclohexyl)ethyl 4-bromobenzenesulfonate
To a solution of 2-(4,4-dimethylcyclohexyl)-1-ethanol (Preparation 15, 1.45 g, 9 mmol) and 4-bromobenzenesulfonyl chloride (2.53 g, 10 mmol) in dichloromethane (30 ml) was added triethylamine (1.9 ml, 13.5 mmol), and the reaction mixture was allowed to stir at room temperature for 24 h. After a further addition of 4-bromobenzenesulfonyl chloride (2.53 g, 10 mmol) and triethylamine (1.9 ml, 13.5 mmol), the reaction mixture was heated under reflux for 1 h. After allowing the reaction mixture to cool to room temperature, the mixture was treated with 2N aqueous hydrochloric acid (100 ml) and the phases were separated. The organic extract was dried (MgSO4), filtered and concentrated in vacuo to afford the crude product. The residue was purified by silica (80 g) column chromatography eluting with diethyl ether:hexane (1:20) to give the title compound as a colourless oil (450 mg, 13%).

reactant | 2-(4,4-dimethylcyclohexyl)-1-ethanol | 9 mmol, 1.45 g | CC1(CCC(CC1)CCO)C | C10H20O
reactant | 4-bromobenzenesulfonyl chloride | 10 mmol, 2.53 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | triethylamine | 13.5 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzenesulfonyl chloride | 10 mmol, 2.53 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | triethylamine | 13.5 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4,4-Dimethylcyclohexyl)ethyl 4-bromobenzenesulfonate | 450 mg, 13% | BrC1=CC=C(C=C1)S(=O)(=O)OCCC1CCC(CC1)(C)C | C16H23BrO3S
